Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin / Ativan
 
Attending: ___.
 
Chief Complaint:
inability to ambulate
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo F with reported PMHx
significant for lyme disease and depression, who presents with
inability to ambulate and concern for muteness.

History obtained from the husband who was at the bedside, at the
request of the patient. Patient is able to comprehend and 
comment
on aspects of the discussion but whispers throughout the
conversation and is oftentimes difficult to understand.

Patient was in her usual state of health up until ___:
- ___: Patient lost her ability to speak entirely. She was
very confused, lost taste sensation and ability to feel warmth,
with periods of 'memory fog' and jumbling of words (e.g lottery
ticket -> 'pottery licket'). She was brought to the ED in ___
where she lived at the time and was admitted to a psychiatric
unit. Tests were done but ultimately no formal diagnosis was
determined for her constellation of symptoms and patient was
started on Fluoxetine for Depression
- ___, patient had regained her ability to speak but
people they knew mentioned that many of her symptoms could be
seen with Lyme disease (headaches, body pain). Evaluated in
___ and blood tests were positive for Lyme disease. Treated
with Doxycline, infusions, tinctures
- Through ___, periods of inability to speak would
happen intermittently, usually upon awakening in the morning,
with recovery later on in the day
- During these episodes of muteness, patient is able to
comprehend speech without issue but is unable to vocalize aside
from 'occasional gibberish'. Even when asked to write her
thoughts, they come out as 'gibberish'
- Throughout ___, episodes of muteness become more frequent
- ___ to present: Episodes of muteness last longer, up to
days at a time. She feels constantly lightheaded (denies
sensation of room spinning) with daily headaches. Occasionally
with 30 second episodes of tremors involving various body parts
(leg vs arm) that resolve on its own (no generalized 
seizure-like
activity)
- over past 5 days, nausea is a daily occurrence (no vomiting).
Also endorses chills and inability to walk. She is unsteady and
shaky on her feet. Husband describes it as a 'mental disconnect"
with an inability to move her legs reflexively. She must now
consciously decide to move her legs and is unable to do so at
times. She denies any recent psychosocial stressors. 
Furthermore,
patient denies any fevers, chest pain, shortness of breath,
cough, abdominal pain, dysuria/hematuria or diarrhea.

Of note, she follows with ND ___, naturopathic 
doctor,
for most of her care and last saw ___ earlier this month
where she was told that her 'Lyme counts are low.' Patient was
prescribed Prednisone to be taken for one month (she is now on
week 3) for 'brain inflammation' diagnosed based off of her
reported symptoms. Given her overall lack of improvement and the
impact it was having on her life, ___ recommended that the
patient see an ID specialist. Due to her worsening symptoms over
the past five days, patient and her husband presented to ___
ED. 

In the ED, initial VS were: ___ 96 129/76 16 98%RA
Labs showed: WBC 12.6, otherwise normal CBC/BMP/LFTs, negative
serum/urine tox. 
Imaging showed: NCHCT ___:  No acute intracranial process. 
Consults: None  
Patient received: None  
Transfer VS were: 98.2F 88 128/78 16 98%RA
 
Past Medical History:
Lyme Disease
Depression
 
Social History:
___
Family History:
 No family history of depression, bipolar
disorder, or other known psychiatric disorders
 
Physical Exam:
ADMISSION EXAM
========================
VS: 97.5PO 122 / 86R Lying 79 18 95 RA  
GENERAL: NAD, whispers. States that she is ___ States that
it is ___ When asked about hospital, difficult to
understand her speech
HEENT: AT/NC, EOMI, PERRLA, no ptosis, anicteric sclera, pink
conjunctiva, MMM  
NECK: supple, no nuchal rigidity, no LAD. 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, mild tenderness in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact. ___ strength in UE. ___ strength in ___. 

Sensation grossly intact in all extremities.
Dorsiflexion/plantar-flexion intact. ___ biceps/brachioradialis
reflexes. No dysmetria. Unable to stand, unable to demonstrate
gait. 
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 

DISCHARGE EXAM
========================
GENERAL: Lying in bed wearing pajamas, in no acute distress 
HEENT: Pupils, equal, round and reactive to light. Extraocular
movement intact with some stopping during pursuits. Mucous
membranes moist. 
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops  
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi  
ABD: Normal bowel sounds, soft, nontender, nondistended, no
hepatomegaly, no splenomegaly  
EXT: Warm, well perfused, no lower extremity edema  
PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses  
NEURO: Alert, orientedx3. CN II-XII grossly intact. Strength and
sensation intact. 

 
Pertinent Results:
ADMISSION LABS
===========================
___ 08:10PM BLOOD WBC-12.6* RBC-4.82 Hgb-13.6 Hct-41.4 
MCV-86 MCH-28.2 MCHC-32.9 RDW-13.9 RDWSD-43.3 Plt ___
___ 08:10PM BLOOD Glucose-121* UreaN-13 Creat-0.6 Na-142 
K-4.3 Cl-103 HCO3-24 AnGap-15

PERTINENT LABS
===========================
___ 04:35AM BLOOD WBC-12.6* RBC-4.57 Hgb-12.9 Hct-39.9 
MCV-87 MCH-28.2 MCHC-32.3 RDW-14.0 RDWSD-44.6 Plt ___
___ 04:50AM BLOOD WBC-8.9 RBC-4.31 Hgb-12.2 Hct-37.9 MCV-88 
MCH-28.3 MCHC-32.2 RDW-13.7 RDWSD-44.4 Plt ___
___ 04:50AM BLOOD Glucose-85 UreaN-13 Creat-0.7 Na-138 
K-4.3 Cl-101 HCO3-25 AnGap-12
___ 04:35AM BLOOD Glucose-103* UreaN-14 Creat-0.7 Na-141 
K-3.8 Cl-102 HCO3-24 AnGap-15
___ 04:50AM BLOOD Calcium-9.2 Phos-4.2 Mg-2.2
___ 01:20AM BLOOD ALT-33 AST-16 LD(LDH)-173 AlkPhos-79 
TotBili-0.2
___ 04:50AM BLOOD CK(CPK)-21*
___ 01:20AM BLOOD VitB12-523
___ 01:20AM BLOOD TSH-3.0
___ 01:20AM BLOOD Free T4-1.2
___ 04:50AM BLOOD ANCA-PND
___ 04:50AM BLOOD ___ CRP-1.8 dsDNA-PND
___ 01:20AM BLOOD HIV Ab-NEG
___ 08:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 12:17AM URINE Color-Yellow Appear-Cloudy* Sp ___
___ 12:17AM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-SM*
___ 12:17AM URINE RBC-4* WBC-0 Bacteri-FEW* Yeast-NONE 
Epi-6
___ 12:17AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
  RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 

IMAGING
===========================
NCHCT ___: IMPRESSION: No acute intracranial process.

MR ___ ___:
IMPRESSION:
1. Minimal multilevel degenerative changes of the cervical spine 
without
significant canal or neural foraminal narrowing.
2. No evidence for abnormal cord signal or enhancement.
 
MRI/MRA BRAIN ___:
IMPRESSION: No significant abnormalities are seen on MRI of the 
brain with and without
gadolinium. No significant abnormalities are seen on MRA of the 
head.

 
Brief Hospital Course:
====================
PATIENT SUMMARY:
====================
___ yo F with reported PMHx significant for lyme disease and 
depression, who presents with muteness and five days of nausea, 
lightheadedness, and inability to ambulate. No clear underlying 
infectious, autoimmune or inflammatory cause identified, most 
likely secondary to conversion disorder vs. somatization. 

====================
ACUTE ISSUES:
====================
#Muteness
#Inability to ambulate. 
Patient presents with muteness and a constellation of other 
neurological symptoms that began in ___ and have become more 
persistent since ___. Given the patient's combination of 
neurological symptoms that do not correspond to a neurological 
disease and the fact that initial and current symptoms began in 
the setting of life stresses/changes, conversion disorder is 
most likely. Many of the patient's symptoms (jarbled language, 
whispered tone, lower extremity paralysis out of proportion to 
her physical exam) are commonly seen in conversion disorder. 
Psychiatry and neurology were consulted for work up of weakness 
and mutism. Toxic/metabolic workup was negative with negative 
serum/urine tox, reassuring electrolytes, CBC, and TFTs. Brain 
MRI was unremarkable. RPR, HIV, B12, TSH, CRP were normal. EEG 
for seizure activity was unremarkable. dsDNA, ANCA, ___, ESR, SM 
antiboidy, paraneoplastic were pending at the time of discharge. 
She will follow up with neurology as outpatient to discuss the 
pending labs. She started working with physical therapy as 
inpatient and should continue physical therapy when she leaves 
the hospital. Recommended that she establish care with 
psychiatry and psychology close to home.

====================
TRANSITIONAL ISSUES:
====================
[ ] Continue to work with physical therapy
[ ] Follow-up with neurology at ___
[ ] Establish care with psychiatry close to home
[ ] Stopped prednisone 

- New Meds: none
- Stopped/Held Meds: prednisone
- Changed Meds: none
- Follow-up appointments: she will schedule neurology at ___ 
and psychiatry close to home
- Post-Discharge Follow-up Labs Needed: dsDNA, ANCA, ___, ESR, 
___ antiboidy, ___, Paraneoplastic Autoantibody Evaluation 


#CODE: Full (presumed)
#CONTACT: Husband ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 40 mg PO DAILY 
2. PredniSONE 10 mg PO DAILY 

 
Discharge Medications:
1.  FLUoxetine 40 mg PO DAILY  
2. HELD- PredniSONE 10 mg PO DAILY  This medication was held. Do 
not restart PredniSONE until you follow up with the ___ 
Neurology team

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
====================
Somatization disorder

SECONDARY DIAGNOSIS
====================
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
   
You came to ___ because you were having leg weakness and 
difficulty speaking. You were found to have a somatization 
disorder. Please see more details listed below about what 
happened while you were in the hospital and your instructions 
for what to do after leaving the hospital.  
It was a pleasure participating in your care. We wish you the 
best!  

Sincerely,  
Your ___ Care Team  

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL:  
- You underwent testing which included an EEG to monitor for 
seizure activity, an MRI of your brain, and lab tests for 
auto-immune disorders and infections all of which were normal
- You were evaluated by the neurology and psychiatry teams
- You worked with physical therapy

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL:  
- Please follow up with your primary care doctor and other 
health care providers (see below)  
- Please take all of your medications as prescribed (see below). 
 
- Please establish care with physical therapy and with 
psychiatry to continue treatment with the goal of improving your 
symptoms
- Seek medical attention if you have any other symptoms of 
concern. 
 
Followup Instructions:
___